US07211668B2
N-[2-(5-methyl-4-phenyl-thiazole-2-sulfonylamino)-ethyl]-glycine ethyl ester
The title compound was synthesized by the reaction of N-(2-aminoethyl)-glycine ethyl ester 2HCl with 5-methyl-4-phenyl-thiazole-2-sulfonyl chloride as per the procedure of example 1. 1H NMR (500 MHz; DMSO-d6) δ 7.68 (d, 2H), 7.51 (t, 2H), 7.44 (t, 1H), 4.05 (q, 2H), 3.26 (s, 2H), 3.10 (t, 2H), 2.64 (s, 3H), 2.63 (t, 2H), 1.16 (t, 3H).

reactant | N-(2-aminoethyl)-glycine ethyl ester 2HCl | Cl.Cl.C(C)OC(CNCCN)=O
reactant | 5-methyl-4-phenyl-thiazole-2-sulfonyl chloride | CC1=C(N=C(S1)S(=O)(=O)Cl)C1=CC=CC=C1 | C10H8ClNO2S2
product | N-[2-(5-methyl-4-phenyl-thiazole-2-sulfonylamino)-ethyl]-glycine ethyl ester | C(C)OC(CNCCNS(=O)(=O)C=1SC(=C(N1)C1=CC=CC=C1)C)=O | C16H21N3O4S2
